US06924374B2
1-(4-Chloro-3-trifluoromethyl-phenyl)-4-ethyl-piperazine
Beginning with 1-(4-Chloro-3-trifluoromethyl-phenyl)-piperazine and bromo-ethane, the title compound was recovered by the procedure described in Example 2. MS m/z (rel. intensity, 70 eV) 293 (M+, 6), 292 (30),277 (29), 57 (bp), 56 (41).

reactant | 1-(4-Chloro-3-trifluoromethyl-phenyl)-piperazine | ClC1=C(C=C(C=C1)N1CCNCC1)C(F)(F)F | C11H12ClF3N2
reactant | bromo-ethane | BrCC | C2H5Br
product | 1-(4-Chloro-3-trifluoromethyl-phenyl)-4-ethyl-piperazine | ClC1=C(C=C(C=C1)N1CCN(CC1)CC)C(F)(F)F | C13H16ClF3N2
